US06133279
In a mixed solvent of 20 ml of ethanol and 8 ml of pyridine was dissolved 3.9 g of 5-acetoxy-4,6-di-t-butyl-2-formyl-2-methyl-2,3-dihydrobenzofuran, and 1.42 g of aminoguanidine hydrochloride was added at room temperature. After heating under reflux for 14 hours and then cooling, ethanol and excess pyridine were distilled off using an evaporator, and the concentrate was combined with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated. The concentrate was purified by silica gel column chromatography eluting with chloroform containing 10% methanol to give 4.48 g of 1-[(5-acetoxy-4,6-di-t-butyl-2-methyl-2,3-dihydrobenzofuran-2-yl)methylideneamino]guanidine (rotamer mixture) as a pale yellow oil (yield 99%).

reactant | 5-acetoxy-4,6-di-t-butyl-2-formyl-2-methyl-2,3-dihydrobenzofuran | 3.9 g | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)C=O)C1C(C)(C)C)C(C)(C)C | C20H28O4
reactant | aminoguanidine hydrochloride | 1.42 g | C(=N)(N)NN.Cl
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 1-[(5-acetoxy-4,6-di-t-butyl-2-methyl-2,3-dihydrobenzofuran-2-yl)methylideneamino]guanidine | 4.48 g, yield 99% | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)C=NNC(=N)N)C1C(C)(C)C)C(C)(C)C | C21H32N4O3
